US08236808B2
1-Ethoxy-2-chloro-4-isocyanato-benzene
1-Ethoxy-2-chloro-4-isocyanato-benzene is prepared by addition of triethylamine to a solution of 4-ethoxy-3-chlorophenylamine in EtOAc at 0-5° C. Triphosgene is added and the reaction mixture is slowly heated to reflux over 2 h. The solvent is removed in vacuo and the crude product is filtered through silica to afford the title compound.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-ethoxy-3-chlorophenylamine | C(C)OC1=C(C=C(C=C1)N)Cl | C8H10ClNO
reactant | Triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Ethoxy-2-chloro-4-isocyanato-benzene | C(C)OC1=C(C=C(C=C1)N=C=O)Cl | C9H8ClNO2
